US07304062B2
Step A: Preparation of 4-(4-Hydroxyphenyl)butyric acid hydrazide
A mixture of methyl 4-(4-hydroxyphenyl)butyrate (4.93 g, 0.025 mol) and hydrazine hydrate (25.4 g, 0.254 mol) in methanol (64 mL) was heated under reflux for an hour. It was then cooled down to room temperature and stirred overnight. The solvent was evaporated and the residue was partitioned between ethyl acetate (100 mL) and water (100 mL). The organic layer was dried over Na2SO4, filtered and concentrated to dryness to give the titled compound as a white crystal (3.30 g, 67%). 400 MHz 1H NMR (DMSO-d6) δ 9.10 (s, 1H), 8.89 (s, 1H), 6.93 (d, J=8.8 Hz, 2H), 6.63 (d, J=8.8 Hz, 2H), 3.32 (s, 2H), 2.40 (t, J=7.6 Hz, 2H), 1.97 (t, J=7.2 Hz, 2H), 1.71−1.67 (m, 2H); Mass (M−H−)=193.27.

reactant | methyl 4-(4-hydroxyphenyl)butyrate | 0.025 mol, 4.93 g | OC1=CC=C(C=C1)CCCC(=O)OC | C11H14O3
reactant | hydrazine hydrate | 0.254 mol, 25.4 g | O.NN
solvent | methanol | 64 mL | CO | CH4O
product | 4-(4-Hydroxyphenyl)butyric acid hydrazide | 3.30 g, 67% | OC1=CC=C(C=C1)CCCC(=O)NN | C10H14N2O2
